US05206375
168 parts of 2-amino-3-amino-4-ethoxythiophene are dissolved in 500 parts by volume of dimethylformamide, 101 parts of triethylamine are added, and 130 parts of monochloroacetyl chloride are introduced dropwise at 50° C. Stirring is continued for 4 hours at 50° C., after which the reaction mixture is poured onto 2000 parts of water. The product is filtered off under suction, washed with water and dried, and 240 parts of 2-(2-chloroacetylamino)-3-cyano-4-ethoxythiophene are obtained. A sample recrystallized from acetic acid melts at 243°-244° C. and has a chlorine content of 14.1% (calculated: 14.5%).

reactant | 2-amino-3-amino-4-ethoxythiophene | NC=1SC=C(C1N)OCC | C6H10N2OS
reactant | monochloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | water | O | H2O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(2-chloroacetylamino)-3-cyano-4-ethoxythiophene | ClCC(=O)NC=1SC=C(C1C#N)OCC | C9H9ClN2O2S
